US08703951B2
4-methoxybenzoylchloride (7.0 g, 41.0 mmol) was added dropwise to a stirring solution of benzothiazole (5.4 g, 40.0 mmol) in dichloromethane (40 mL) under argon atmosphere. A catalytic amount of AlCl3 and trimethylsilylcyanide (4.1 g, 42.0 mmol) were than added into the reaction mixture. After being stirred for 14 h at room temperature, the reaction mixture was evaporated to dryness in vacuo and the residue was triturated with ether to give 3-(4-methoxybenzoyl)-2,3-dihydrobenzo[d]thiazole-2-carbonitrile, 8.2 g (70%); mp 122-123° C. (Lit.21 122-123° C.). 1H NMR (DMSO-d6) δ 3.82 (3H, s, MeO), 6.72 (1H, brs, C2-H), 6.84 (1H, s, ArH), 7.01-7.14 (4H, m, 4×ArH), 7.52-7.55 (3H, m, 3×ArH).

reactant | 4-methoxybenzoylchloride | 41.0 mmol, 7.0 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | benzothiazole | 40.0 mmol, 5.4 g | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | trimethylsilylcyanide | 42.0 mmol, 4.1 g | C[Si](C)(C)C#N | C4H9NSi
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 3-(4-methoxybenzoyl)-2,3-dihydrobenzo[d]thiazole-2-carbonitrile | COC1=CC=C(C(=O)N2C(SC3=C2C=CC=C3)C#N)C=C1 | C16H12N2O2S
